US07452892B2
C. Preparation of 1-(chloromethyl)-4-(ethylsulfonyl)benzene
A mixture of (4-(ethylsulfonyl)phenyl)methanol (200 mg, 1 mmol) and thionyl chloride (3 mL) was stirred at reflux for 4 h. The solvent was removed under reduced pressure to obtain a gum. Dichloromethane (10 mL) was added, and the mixture was stirred for 5 min and then concentrated under vacuum. This process was repeated two more times to ensure complete removal of thionyl chloride. After residual solvent removal under vacuum, 205 mg of the title compound was obtained as a white solid. HPLC/MS: retention time=2.308 min, [M+H]+=219.

reactant | (4-(ethylsulfonyl)phenyl)methanol | 1 mmol, 200 mg | C(C)S(=O)(=O)C1=CC=C(C=C1)CO | C9H12O3S
reactant | thionyl chloride | 3 mL | S(=O)(Cl)Cl | Cl2OS
solvent | Dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-(chloromethyl)-4-(ethylsulfonyl)benzene | 205 mg | ClCC1=CC=C(C=C1)S(=O)(=O)CC | C9H11ClO2S
